US04954509
1-(piperidin-1-yl)methyl-2-(3,4-dichlorophenyl)acetyl-5-hydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride
Prepared as Ex. No. 34, from 1.65 g (4.06 mmoles) of 1-(piperidin-1-yl)methyl-5-hydroxy-1,2,3,4-tetrahydroisoquinoline dihydrobromide, 2.6 ml (18.50 mmoles) of Et3N and 2.2 g (9.84 mmoles) of 3,4-dichlorophenyl acetyl chloride in 50 ml of dry chloroform.

reactant | 1-(piperidin-1-yl)methyl-5-hydroxy-1,2,3,4-tetrahydroisoquinoline dihydrobromide | 4.06 mmoles, 1.65 g | Br.Br.N1(CCCCC1)CC1NCCC2=C(C=CC=C12)O
reactant | Et3N | 18.50 mmoles, 2.6 ml | CCN(CC)CC | C6H15N
reactant | 3,4-dichlorophenyl acetyl chloride | 9.84 mmoles, 2.2 g | ClC=1C=C(C=CC1Cl)CC(=O)Cl | C8H5Cl3O
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(piperidin-1-yl)methyl-2-(3,4-dichlorophenyl)acetyl-5-hydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride | Cl.N1(CCCCC1)CC1(NCCC2=C(C=CC=C12)O)C(CC1=CC(=C(C=C1)Cl)Cl)=O | InChI=1S/C23H26Cl2N2O2.ClH/c24-19-8-7-16(13-20(19)25)14-22(29)23(15-27-11-2-1-3-12-27)18-5-4-6-21(28)17(18)9-10-26-23;/h4-8,13,26,28H,1-3,9-12,14-15H2;1H
